US07262202B2
[4-(5-Bromo-2,4-dimethyl-1H-pyrrol-3-yl)-pyrimidin-2-yl]-(4-fluoro-phenyl)-amine [50]
[4-(2,4-Dimethyl-1H-pyrrol-3-yl)-pyrimidin-2-yl]-(4-fluoro-phenyl)-amine (80 mg, 0.28 mmol) was dissolved in THF (4 mL) and cooled to −50° C. N-Bromosuccinimide (55 mg, 0.31 mmol) was dissolved in THF (2 mL) and added dropwise, keeping the internal temperature ≦−40° C. The mixture was stirred for 1 h with cooling then evaporated in vacuo. The residue was treated with H2O (10 mL) and extracted with EtOAc (3×10 mL). The combined organic extractss were washed (brine), dried (MgSO4), filtered, and evaporated in vacuo. The crude product was purified by SiO2 chromatography heptane/EtOAc gradient elution) to afford the title compound (19 mg) as an orange solid after recrystallisation from iPr2O. M.p. 181.4–183.3° C. MS: [M+H]+=362.9 (C16H14BrFN4 requires 361.2). 1H-NMR (CDCl3) δ: 2.10 (s, 3H, CH3), 2.36 (s, 3H, CH3) 6.56 (d, 1H, J=5.1 Hz, pyrimidinyl-H), 6.97 (t, 2H, J=8.3 Hz, Ph-H), 7.00 (br. s, 1H, NH), 7.79–7.52 (m, 2H, Ph-H), 8.85 (br. s, 1H, NH), 8.26 (d, 1H, J=5.1 Hz, pyrimidinyl-H).

reactant | [4-(2,4-Dimethyl-1H-pyrrol-3-yl)-pyrimidin-2-yl]-(4-fluoro-phenyl)-amine | 0.28 mmol, 80 mg | CC=1NC=C(C1C1=NC(=NC=C1)NC1=CC=C(C=C1)F)C | C16H15FN4
reactant | N-Bromosuccinimide | 0.31 mmol, 55 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [4-(5-Bromo-2,4-dimethyl-1H-pyrrol-3-yl)-pyrimidin-2-yl]-(4-fluoro-phenyl)-amine | 19 mg | BrC1=C(C(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)F)C | C16H14BrFN4
